US07015218B1
N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methyl-1-(2-phenylethyl)pyrazole-4-carboxamide
The reaction and treatment in the same manner as in Example 64 were conducted using 5-methyl-1-(2-phenylethyl)pyrazole-4-carboxylic acid (0.6 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile (0.75 g) and the resulting product was recrystallized from ethyl acetate to give the title compound (0.4 g), melting point: 195° C.

reactant | 5-methyl-1-(2-phenylethyl)pyrazole-4-carboxylic acid | 0.6 g | CC1=C(C=NN1CCC1=CC=CC=C1)C(=O)O | C13H14N2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 0.75 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methyl-1-(2-phenylethyl)pyrazole-4-carboxamide | 0.4 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C=1C=NN(C1C)CCC1=CC=CC=C1 | C29H34N6O2
